US05703109
b) 1-(4-cyanophenyl)-3-(4-fluorophenyl)-1-propanone
1-(4-cyanophenyl)-3-(4-fluorophenyl)prop-2-en-1-one is hydrogenated in ethanol using 5% Pd-C as a catalyst.

reactant | 1-(4-cyanophenyl)-3-(4-fluorophenyl)prop-2-en-1-one | C(#N)C1=CC=C(C=C1)C(C=CC1=CC=C(C=C1)F)=O | C16H10FNO
catalyst | ethanol | C(C)O | C2H6O
product | 1-(4-cyanophenyl)-3-(4-fluorophenyl)-1-propanone | C(#N)C1=CC=C(C=C1)C(CCC1=CC=C(C=C1)F)=O | C16H12FNO
